US06172260B2
A mixture of purified 2-methyl-4-acetamidobenzaldehyde (9.6 g, 0.054 mole), ethyl iodide (10 ml, 0.125 mole), and 50 ml of tetrahydrofaran was warmed to about 300 with stirring under a nitrogen atmosphere. Solid potassium t-butoxide (6.25 g, 0.056 mole) was added and the mixture was stirred for 2.5 hr at 30°. The mixture was concentrated under vacuum at 50° on a rotary evaporator to a syrup. The syrup was dissolved in methanol (30 ml) before adding water (20 ml) and then sodium hydroxide (5 g, 0.125 mole) to the mixture. After heating the mixture to reflux temperature for 30 min, it was cooled to rt and water (120 ml) was added. Solid product precipitated on stirring over night. After filtering and drying, 5.1 g (58%) of 2-methyl-4-ethylaminobenzaldehyde was obtained.

reactant | 2-methyl-4-acetamidobenzaldehyde | 0.054 mole, 9.6 g | CC1=C(C=O)C=CC(=C1)NC(C)=O | C10H11NO2
reactant | ethyl iodide | 0.125 mole, 10 ml | C(C)I | C2H5I
reactant | potassium t-butoxide | 0.056 mole, 6.25 g | CC(C)([O-])C.[K+]
reactant | sodium hydroxide | 0.125 mole, 5 g | [OH-].[Na+]
solvent | water | 120 ml | O | H2O
product | 2-methyl-4-ethylaminobenzaldehyde | 5.1 g, 58% | CC1=C(C=O)C=CC(=C1)NCC | C10H13NO
